US06124278
N-(2-Ethoxymethoxy-4,5-methylenedioxybenzyl)phthalimide (1.70 g, 4.77 mmol) was treated with 0.5 mL (16 mmol) hydrazine in 90 mL refluxing ethanol for three hr. The reaction mixture was cooled and the phthalhydrazide was removed by filtration and washed three times with ethyl ether. The organic solutions were combined and evaporated to dryness on a rotary evaporator to yield a residue, which was taken up in dichloromethane. The organic solution was washed three times with 10% sodium hydroxide and the combined aqueous solutions were back-extracted with dichloromethane two times. The combined organic solutions were washed with brine and dried over sodium sulfate/potassium carbonate. Evaporation of the solvent gave of 2-ethoxymethoxy-4,5-methylenedioxybenzylamine as a slightly yellow liquid (0.98 g, 92% yield) that solidified upon standing. IR: 3298 cm-1. 1HNMR (200 MHz): δ 6.77 (1H, s); 6.75 (1H, s); 5.91 (2H, s); 5.18 (2H, s); 3.74 (2H, q, J=7.1 Hz); 3.73 (2H, s); 1.45 (2H, br s); and 1.24 ppm 3H, t,J=7.1 Hz).

reactant | N-(2-Ethoxymethoxy-4,5-methylenedioxybenzyl)phthalimide | 4.77 mmol, 1.70 g | C(C)OCOC1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C3C(=C1)OCO3 | C19H17NO6
reactant | hydrazine | 16 mmol, 0.5 mL | NN | H4N2
reactant | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-ethoxymethoxy-4,5-methylenedioxybenzylamine | C(C)OCOC1=C(CN)C=C2C(=C1)OCO2 | C11H15NO4
